US08022099B2
d) [(3RS,4SR)-1-Benzyl-4-(4-chloro-3-fluoro-phenyl)-pyrrolidin-3-yl]-(3-fluoro-4-trifluoromethyl-benzyl)-methyl-amine
To a stirred solution of [(3RS,4SR)-1-benzyl-4-(4-chloro-3-fluoro-phenyl)-pyrrolidin-3-yl]-methyl-amine (340 mg, 1.06 mmol) in MeOH (6 ml) was added 3-fluoro-4-trifluoromethyl-benzaldehyde (230 mg, 1.20 mmol). Then a solution of NaBH3CN (85 mg, 1.3 mol) in MeOH (1.5 ml) and AcOH (0.01 ml) were added. The reaction mixture was stirred overnight at RT, concentrated under vacuo, diluted with EtOAc, washed with H2O. The organic phases were dried over Na2SO4 and the product purified by flash chromatography (SiO2, EtOAc/Heptane 1:4) to afford 145 mg (28%) of the title compound as a colorless oil.

reactant | [(3RS,4SR)-1-benzyl-4-(4-chloro-3-fluoro-phenyl)-pyrrolidin-3-yl]-methyl-amine | 1.06 mmol, 340 mg | C(C1=CC=CC=C1)N1CC(C(C1)C1=CC(=C(C=C1)Cl)F)NC | C18H20ClFN2
reactant | 3-fluoro-4-trifluoromethyl-benzaldehyde | 1.20 mmol, 230 mg | FC=1C=C(C=O)C=CC1C(F)(F)F | C8H4F4O
reactant | NaBH3CN | 1.3 mol, 85 mg | [BH3-]C#N.[Na+]
solvent | MeOH | 6 ml | CO | CH4O
solvent | MeOH | 1.5 ml | CO | CH4O
solvent | AcOH | 0.01 ml | CC(=O)O | C2H4O2
product | [(3RS,4SR)-1-Benzyl-4-(4-chloro-3-fluoro-phenyl)-pyrrolidin-3-yl]-(3-fluoro-4-trifluoromethyl-benzyl)-methyl-amine | 145 mg, 28% | C(C1=CC=CC=C1)N1CC(C(C1)C1=CC(=C(C=C1)Cl)F)N(C)CC1=CC(=C(C=C1)C(F)(F)F)F | C26H24ClF5N2
